US09382243B2
2-(4-cyclobutoxy-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
1-bromo-4-cyclobutoxy-2-fluorobenzene (253 mg, 1.032 mmol), bis(pinacolato)diboron (524 mg, 2.065 mmol), and potassium acetate (304 mg, 3.10 mmol) were dissolved in DMSO (4129 μl). The solution was sparged with N2 for 15 min and then [1,1′-Bis(Diphenylphosphino)Ferrocene]-Dichloropalladium (II) (151 mg, 0.206 mmol) was added. The reaction heated to 80° C. overnight, then diluted with 1:1 water:brine and EtOAc. The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 25 g column by eluting with 10% to 70% EtOAc:Hexane to give the desired product. 1H NMR δ (ppm) 7.56 (t, 1H), 6.62 (dd, 1H), 6.48 (dd, 1H), 4.69 (quinet, 1H), 2.49-2.42 (m, 2H), 2.15-2.07 (m, 2H), 1.88-1.83 (m, 1H), 1.72 (sextet, 1H), 1.31 (s, 12H).

reactant | 1-bromo-4-cyclobutoxy-2-fluorobenzene | 1.032 mmol, 253 mg | BrC1=C(C=C(C=C1)OC1CCC1)F | C10H10BrFO
reactant | bis(pinacolato)diboron | 2.065 mmol, 524 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.10 mmol, 304 mg | C(C)(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 4129 μl | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | [1,1′-Bis(Diphenylphosphino)Ferrocene]-Dichloropalladium (II) | 0.206 mmol, 151 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(4-cyclobutoxy-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(CCC1)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C16H22BFO3
